US06337423B1
Under nitrogen atmosphere in a Parr bottle, 8.2 mmoles of [Cbz-piperidine-2-carboxylic acid (2,6-dimethyl-phenyl)-amide] was dissolved in MeOH (100 mL). 10% Pd/C (0.5 g) was added, and the bottle was agitated under a hydrogen atmosphere (20 psi) for 30 minutes. The catalyst was filtered off using Millipore filter paper (washing with MeOH). The filtrate was concentrated to a thick syrup, yielding 1.75 grams (92% yield) of [piperidine-2-carboxylic acid (2,6-dimethyl-phenyl)-amide] as an off-white solid. The product was characterized by NMR (DMSO).

reactant | Cbz-piperidine-2-carboxylic acid (2,6-dimethyl-phenyl)-amide | CC1=C(C(=CC=C1)C)NC(=O)C1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C22H26N2O3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | piperidine-2-carboxylic acid (2,6-dimethyl-phenyl)-amide | 92% yield | CC1=C(C(=CC=C1)C)NC(=O)C1NCCCC1 | C14H20N2O
